US08026257B2
(±)-5-Chloro-7-(1-((1-methyl-4-phenylpiperidin-4-yl)methoxy)ethyl)-1H-indazole.
(±)-5-Chloro-7-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-1H-indazole (40 mg, 0.11 mmol) and formaldehyde (37 wt. % solution in water, 156 μL) were combined in acetonitrile (2 mL) and cooled to 0° C. The reaction was treated with sodium cyanoborohydride (34 mg, 0.54 mmol) and a few drops of acetic acid. The reaction was stirred at 0° C. for 30 min and at room temperature for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvents were evaporated to afford 30 mg (72%). 1H-NMR (CDCl3, 500 MHz) δ 7.89 (s, 1H), 7.55 (d, J=1.8 Hz, 1H), 7.39-7.42 (m, 2H), 7.34-7.37 (m, 1H), 7.27 (m, 2H), 6.97 (d, J=1.5 Hz, 1H), 4.52 (q, J=6.7 Hz, 1H), 3.35 (d, J=9.2 Hz, 1H), 3.23 (d, J=8.9 Hz, 1H), 3.11-3.26 (m, 2H), 2.45-2.53 (m, 2H), 2.49 (s, 3H), 2.38-2.40 (m, 2H), 2.25-2.30 (m, 2H), 1.46 (d, J=6.7 Hz, 3H); 13C-NMR (126 MHz, CDCl3) δ ppm 135.5, 133.6, 129.3, 127.5, 127.4, 126.9, 126.0, 124.9, 124.4, 119.1, 78.2, 51.5, 51.4, 44.4, 40.5, 30.2, 22.0. Mass spec.: 384.16 (MH)+.

reactant | (±)-5-Chloro-7-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-1H-indazole | 0.11 mmol, 40 mg | ClC=1C=C2C=NNC2=C(C1)C(C)OCC1(CCNCC1)C1=CC=CC=C1 | C21H24ClN3O
reactant | formaldehyde | 156 μL | C=O | CH2O
reactant | sodium cyanoborohydride | 0.54 mmol, 34 mg | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | (±)-5-Chloro-7-(1-((1-methyl-4-phenylpiperidin-4-yl)methoxy)ethyl)-1H-indazole | ClC=1C=C2C=NNC2=C(C1)C(C)OCC1(CCN(CC1)C)C1=CC=CC=C1 | C22H26ClN3O
